US06355798B1
N-(7-Cyclobutyl-3-phenyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)-N-(1-methyl-1H-1,2,4-triazol-3-ylmethyl)amine and
A mixture of 6-chloro-7-cyclobutyl-3-phenyl-1,2,4-triazolo[4,3-b]pyridazine (144 mg, 0.52 mmol) and C-(1-methyl-1H-1,2,4-triazol-3-yl)methylamine hydrochloride (300 mg, 2.0 mmol) in triethylamine (1 ml) and dry DMF (1 ml) was stirred and heated at 100° C. in a sealed tube for 20 hours. Upon cooling the volatiles were removed in vacuo, and the residue was partitioned between dichloromethane and saturated aqueous sodium hydrogen carbonate. The aqueous was further extracted with dichloromethane (x2). The combined extracts were dried (Na2SO4), filtered and evaporated. The residue was purified by chromatograhy on silica gel, eluting with 2%→5%→10% methanol-dichloromethane to give, in order of elution:

reactant | 6-chloro-7-cyclobutyl-3-phenyl-1,2,4-triazolo[4,3-b]pyridazine | 0.52 mmol, 144 mg | ClC=1C(=CC=2N(N1)C(=NN2)C2=CC=CC=C2)C2CCC2 | C15H13ClN4
reactant | C-(1-methyl-1H-1,2,4-triazol-3-yl)methylamine hydrochloride | 2.0 mmol, 300 mg | Cl.CN1N=C(N=C1)CN
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | N-(7-Cyclobutyl-3-phenyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)-N-(1-methyl-1H-1,2,4-triazol-3-ylmethyl)amine | C1(CCC1)C1=CC=2N(N=C1NCC1=NN(C=N1)C)C(=NN2)C2=CC=CC=C2 | C19H20N8
